Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / Bactrim
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ by ___ is a ___ with h/o t1DM, last 
hgbA1c was 15% 1 month ago, who experienced a cut of her right 
ankle after she hit the edge of a stretcher at work (in the PACU 
at ___ 1 week ago. Superficial abscess developed that did not 
appear to infect the bone or joint. Three days ago it became 
more painful, swollen and hot. She presented to the ED on ___, 
where some fluctuance was noted so I/D was performed and about 3 
cc of pus returned. She was sent home with clinda/doxy. Returns 
to ED today, with ankle looking more erythematous and swollen, 
and it is more painful. 

In the ED, initial VS: 98.8 98 122/80 16 100% RA.  Area involves 
lateral maleolus with small open area and tenderness with ROM. 1 
cc of fluid was aspirated from joint. Culture from ___ 
growing ___. ID was consulted and recommened fluconazole. 
Also given vancomycin (h/o Redman's, so given slowly and with 
benadryl) and unasyn. Ortho called and did not think infection 
involved joint or bone, but did advise ordering an ESR/CRP.
.  
Currently, her ankle has ___ pain, and hurts to move or stand 
on it. Otherwise no complaints. Denies fevers, but has night 
sweats and chills.  
 
Past Medical History:
T1DM, diagnosed ___ years ago, last A1C 15 per patient, goes
to ___
 
Social History:
___
Family History:
strong histry of t1DM in father's side. pt has multiple 
aunts/uncles/siblings with t1DM.
 
Physical Exam:
Admission exam
VS - 98.8 82 125/74 16 100%ra 
GENERAL - well-appearing female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs). Area of infection is a 1.5cm wide, 0.5cm deep lesion on 
the right lateral malleous. No pus is expressable. There is 
minimal surrounding erythema. Active and passive ROM is 
decreased in the right ankle joint. She is neurovascularly 
intact distal to the infection site.   
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, gait deferred

Discharge exam
VS - 97.7 68 121/68 16 100%ra 
GENERAL - well-appearing female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs). Area of infection is a 1.5cm wide, 0.5cm deep lesion on 
the right lateral malleous. No pus is expressable. There is 
minimal surrounding erythema. Active and passive ROM is 
decreased in the right ankle joint. She is neurovascularly 
intact distal to the infection site.   
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, gait deferred
 
Pertinent Results:
Admission labs
___ 12:10PM BLOOD WBC-8.0 RBC-5.13 Hgb-14.7 Hct-44.4 MCV-87 
MCH-28.7 MCHC-33.2 RDW-12.1 Plt ___
___ 12:10PM BLOOD Neuts-68.0 ___ Monos-4.2 Eos-0.5 
Baso-0.5
___ 12:10PM BLOOD ESR-40*
___ 12:10PM BLOOD Glucose-159* UreaN-15 Creat-0.5 Na-139 
K-4.0 Cl-99 HCO3-27 AnGap-17
___ 12:10PM BLOOD CRP-4.7
___ 12:29PM BLOOD Lactate-1.6

Discharge labs
___ 07:35AM BLOOD WBC-6.6 RBC-4.26 Hgb-12.5 Hct-36.8 MCV-86 
MCH-29.3 MCHC-33.9 RDW-12.0 Plt ___
___ 07:35AM BLOOD ESR-35*
___ 07:35AM BLOOD Glucose-205* UreaN-10 Creat-0.4 Na-138 
K-4.2 Cl-103 HCO3-30 AnGap-9
___ 07:35AM BLOOD CRP-3.9

Studies

Right foot xray
No fracture, dislocation, periosteal new bone
formation, or osseous destruction is identified to suggest 
osteomyelitis. No subcutaneous gas or radiopaque foreign bodies 
are seen. No suspicious lytic or sclerotic osseous abnormalities 
are present. The ankle mortise is
symmetric and the talar dome is smooth. IMPRESSION: No 
radiographic evidence for osteomyelitis.

Microbiology
___ 9:00 pm ABSCESS

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE 
GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.

___ Blood Cultures negative

___ 1:30 pm JOINT FLUID
      Fluid should not be sent in swab transport media.  Submit 
fluids in a
      capped syringe (no needle), red top tube, or sterile cup. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
      A swab is not the optimal specimen collection to evaluate 
body
      fluids. 
      NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
 
Brief Hospital Course:
Ms ___ by ___ is a ___ with h/o t1DM, last 
hgbA1c was 15% 1 month ago, who presents with skin infection on 
R ankle.
.
# Cellulitis: Pt acquired wound from a stretcher in the ___ 
PACU. Wound culture from ___ growing ___, so she was 
started on fluconazole and will complete a 14 day course per ID 
recs. Given wound acquired in hospital and she is a poorly 
controlled diabetic, she was initially covered with vanc/unasyn 
(note that she has h/o Redman's syndrome, but if vanc is infused 
slowly, and benadryl 25mg PO given first, it can be avoided). As 
she felt well and inflammatory markers were downtrending, she 
was then then on doxycycline and augmentin for a 10 day total 
course. Final blood and wound cultures are still pending. 
Because this wound caused her substantial pain, she was also 
given pain meds, and was evaluated by ___ and given crutches for 
the time being. 
.
# Type 1 Diabetes: poorly controlled, last hgbA1c 15% (per pt). 
She is followed at ___ but is between doctors. She is 
supposed to take insulin ___ BID, with ISS 4 times daily. 
However, she misses ___ doses of 75/25 per week, and rarely 
checks her blood sugars. An appointment was made for her at 
___ Diabetes clinic for a few days from now, where she will 
pursue an insulin pump as an option
.
===============================
TRANSITIONAL ISSUES
# Pt needs significant help controlling her diabetes
 
Medications on Admission:
clindamycin, doxycycline, insulin ___ 30 units qAM 22units 
qPM, is supposed to be on a sliding scale and check sugars 4 
times daily, but does not
 
Discharge Medications:
1. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 13 days.
Disp:*13 Tablet(s)* Refills:*0*
2. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*45 Tablet(s)* Refills:*0*
3. doxycycline hyclate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
4. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
5. Humalog Mix ___ 100 unit/mL (75-25) Suspension Sig: ___ 
30 units qAM 22units qPM . Subcutaneous .  
6. Humalog 100 unit/mL Solution Sig: as directed by sliding 
scale . Subcutaneous .  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ankle cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(crutches).

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure taking care of you at ___. You were admitted 
for a right ankle infection. For this, you were treated with IV 
antibiotics. You will continue to take oral antibiotics for 
several more days. 

It is very important that you control your diabetes better. This 
will prevent future infections, as well as many other health 
complications. We have made an appointment for you with the 
___ Diabetes clinic (see below) 

The following changes were made to your medications
** START doxycycline 100mg by mouth twice daily for 10 days. 
This REPLACES your old doxycycline prescription, which should be 
thrown out

** START augmentin (antibiotic) twice daily for 10 days
** START oxycodone 5mg every 6 hours only as needed for pain 
** START fluconazole (anti-fungal) for 14 more days 

Please follow up with your physicians per below
 
Followup Instructions:
___